### PR TITLE
[Merged by Bors] - feat(MvPolynomial): commuting the variables of mv-polynomials of mv-polynomials

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 1]
```diff
@@ -267,6 +276,30 @@ lemma sumAlgEquiv_comp_rename_inl :
...
+lemma commAlgEquiv_C (p) : commAlgEquiv R S₁ S₂ (.C p) = .map C p := by
+  suffices (commAlgEquiv R S₁ S₂).toAlgHom.comp
+      (IsScalarTower.toAlgHom R (MvPolynomial S₂ R) _) = mapAlgHom (Algebra.ofId _ _) by
+    exact DFunLike.congr_fun this p
+  ext x : 1
+  simp [commAlgEquiv]
+
+lemma commAlgEquiv_C_X (i) : commAlgEquiv R S₁ S₂ (.C (.X i)) = .X i := by simp [commAlgEquiv_C]
+
+lemma commAlgEquiv_X (i) : commAlgEquiv R S₁ S₂ (.X i) = .C (.X i) := by simp [commAlgEquiv]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean:299]: I would guess you want the first and last of these to be `simp`?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
